US06720320B2
(S)-2-(4-glycidyloxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 2-(4-hydroxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole (3.3 g) and (S)-glycidyl nosylate (3.7 g), the title compound (1.1 g) was obtained as white crystals.

reactant | 2-(4-hydroxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole | 3.3 g | OC1=CC=CC=2OC(=CC21)C=2OC(=NN2)C(F)(F)F | C11H5F3N2O3
reactant | (S)-glycidyl nosylate | 3.7 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
product | (S)-2-(4-glycidyloxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole | 1.1 g | C([C@@H]1CO1)OC1=CC=CC=2OC(=CC21)C=2OC(=NN2)C(F)(F)F | C14H9F3N2O4
